US07393858B2
(4S)-8-[(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy]-3-(4-fluorophenyl)-tetrahydropyran-4-yl]methyl-2-oxa-8-aza-spiro[4.5]decan-4-ol
A solution of (1S,4R)-4,7,7-trimethyl-3-oxo-2-oxa-bicyclo[2.2.1]heptane-1-carboxylic acid (4RS)-8-{(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)phenyl)ethoxy]-3-(4-fluorophenyl)-tetrahydropyran-4-ylmethyl}-2-oxa-8-aza-spiro[4.5]dec-4-yl ester (Description 12; 138 mg, 0.175 mmol) in dichloromethane (5 ml) was cooled to −78° C. and diisobutylaluminium hydride (1.5M in toluene, 0.5 ml, 0.75 mmol) added. The reaction was stirred for 30 minutes then quenched by the addition of 2M aqueous sodium hydroxide solution. The mixture was allowed to warm to room temperature then dried over Na2SO4 and filtered through Celite™. The filtrate was concentrated in vacuo and the residue purified by preparative thin layer chromatography, eluting with 7% methanol/dichloromethane to give the title compound (27 mg, 26%).

reactant | (1S,4R)-4,7,7-trimethyl-3-oxo-2-oxa-bicyclo[2.2.1]heptane-1-carboxylic acid (4RS)-8-{(2R,3R,4R)-2-[(1R)-1-(3,5-bis(trifluoromethyl)phenyl)ethoxy]-3-(4-fluorophenyl)-tetrahydropyran-4-ylmethyl}-2-oxa-8-aza-spiro[4.5]dec-4-yl ester | 0.175 mmol, 138 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=C(C=C1)F)CN1CCC2(C(COC2)OC(=O)[C@]23OC([C@](CC2)(C3(C)C)C)=O)CC1)(F)F | C40H46F7NO7
reactant | diisobutylaluminium hydride | 0.75 mmol, 1.5M, 0.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4S)-8-[(2R,3R,4R)-2-[(1R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy]-3-(4-fluorophenyl)-tetrahydropyran-4-yl]methyl-2-oxa-8-aza-spiro[4.5]decan-4-ol | 27 mg, 26% | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=C(C=C1)F)CN1CCC2([C@@H](COC2)O)CC1)(F)F | C30H34F7NO4
